US07462639B2
5-Ethyl-2-(4-ethylamino-1H-pyrazol-3-yl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
5-Ethyl-2-(4-ethylamino-1H-pyrazol-3-yl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (100 mg, 0.32 mmol) and acetaldehyde (30 μl, 0.53 mmol). The title compound was obtained as light grey powder (23 mg).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.32 mmol, 100 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | acetaldehyde | 0.53 mmol, 30 μl | C(C)=O | C2H4O
product | 5-Ethyl-2-(4-ethylamino-1H-pyrazol-3-yl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NCC)(C)C)=O | C18H22N6O
